US08217069B2
To a solution of 2-chloro-N-(2-chloro-6-methoxy-5-nitropyrimidin-4-yl)-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyaniline (0.13 g) and ethyl glycolate (38 mg) in 1-methyl-2-pyrrolidone (2 mL) was added sodium hydride (55%, 21 mg) under ice-cooling, and the mixture was stirred at 80° C. overnight. The reaction mixture was poured into 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=7/3−2/3) to give ethyl 2-{4-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenylamino]-6-methoxy-5-nitropyrimidin-2-yloxy}acetate (22 mg). The title compound was prepared in a similar manner to that described in Example 310 using this material instead of diethyl 2-{4-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenylamino]-6-methoxy-5-nitropyrimidin-2-yl}malonate.

reactant | 2-chloro-N-(2-chloro-6-methoxy-5-nitropyrimidin-4-yl)-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyaniline | 0.13 g | ClC1=C(NC2=NC(=NC(=C2[N+](=O)[O-])OC)Cl)C=C(C(=C1)OC)OCC1=C(C(=CC=C1OC)F)F | C20H16Cl2F2N4O6
reactant | ethyl glycolate | 38 mg | C(CO)(=O)OCC | C4H8O3
reactant | sodium hydride | 21 mg | [H-].[Na+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | 1-methyl-2-pyrrolidone | 2 mL | CN1C(CCC1)=O | C5H9NO
product | ethyl 2-{4-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenylamino]-6-methoxy-5-nitropyrimidin-2-yloxy}acetate | 22 mg | ClC1=C(C=C(C(=C1)OC)OCC1=C(C(=CC=C1OC)F)F)NC1=NC(=NC(=C1[N+](=O)[O-])OC)OCC(=O)OCC | C24H23ClF2N4O9
